US08232300B2
A suspension of aluminum chloride (0.250 g) in carbon disulfide (3 ml) was added with acetyl chloride (0.16 ml). The mixture was stirred at room temperature for 5 minutes, and then slowly added with 2,3,3a,4,5,6-hexahydro-1H-phenalene (0.250 g) dissolved in carbon disulfide (2 ml) at 0° C. The reaction mixture was stirred at 0° C. for 1 hour and at room temperature for 1 hour, and then poured into ice water, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, and dried over anhydrous sodium sulfate. The organic layer was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (developing solvent: ethyl acetate:n-hexane=1:500) to obtain (±)-1-(5,6,6a,7,8,9-hexahydro-4H-1-phenalenyl)ethanone (0.139 g, yield: 45%) and the title compound (0.135 g, yield: 43%).

reactant | aluminum chloride | 0.250 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 0.16 ml | C(C)(=O)Cl | C2H3ClO
reactant | 2,3,3a,4,5,6-hexahydro-1H-phenalene | 0.250 g | C1CCC2CCCC3=CC=CC1=C23 | C13H16
solvent | carbon disulfide | 3 ml | C(=S)=S | CS2
solvent | carbon disulfide | 2 ml | C(=S)=S | CS2
product | (±)-1-(5,6,6a,7,8,9-hexahydro-4H-1-phenalenyl)ethanone | 0.139 g, yield: 45% | C1(=CC=C2CCCC3CCCC1=C23)C(C)=O | C15H18O
